US07858653B2
a) (1H-Imidazol-2-yl)-[1-phenyl-meth-(E)-ylidene]-amine
To a solution of benzaldehyde (1.92 ml, 18.8 mmol) in dichloromethane (15 ml) were added sequentially 2-aminoimidazole sulfate (3.77 g, 14.3 mmol), tetraisopropyl orthotitanate (6.83 ml, 23.3 mmol) and triethylamine (3.90 ml, 2.81 mmol). The reaction mixture was stirred at room temperature for 16 hours and then concentrated in vacuo. The residue was taken up in ethyl acetate and water and the mixture filtered. The filtrate phases were separated and the organic phase dried over sodium sulfate and concentrated in vacuo to yield the title compound as a yellow solid which was used in the next step without further purification (3.03 g, 95%); MS (ISP): 172.1 ([M+H]+).

reactant | benzaldehyde | 18.8 mmol, 1.92 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-aminoimidazole sulfate | 14.3 mmol, 3.77 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | triethylamine | 2.81 mmol, 3.90 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | tetraisopropyl orthotitanate | 23.3 mmol, 6.83 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | (1H-Imidazol-2-yl)-[1-phenyl-meth-(E)-ylidene]-amine | N1C(=NC=C1)/N=C/C1=CC=CC=C1 | C10H9N3
